US06166037
1-Benzyl-3-(SR)-(4-carboethoxy-piperidin-1-ylmethyl)-4-(SR)-phenylpyrrolidine
The title compound was prepared from 400 mg of 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine, 0.24 mL of ethyl isonipecotate and 480 mg of sodium triacetoxyborohydride using a procedure analogous to that described in Example 9, Step B to provide 363 mg of the title compound. RF : 0.31 (50% EtOAc in hexanes). 1H NMR (300 MHz, CDCl3): δ1.22 (t, J=7.1 Hz, 3H), 1.54-1.89 (m, 6H), 2.13-2.21 (m, 1H ), 2.33-2.64 (m, 6H), 2.77-2.97 (m, 4H), 3.65 (ABq, J=13 Hz, 2H), 4.09 (q, J=7.1 Hz, 2H), 7.14-7.37 (m, 10H). Mass Spectrum (CI): 407.3 (M+H).

reactant | 1-Benzyl-3-(SR)-formyl-4-(SR)-phenylpyrrolidine | 400 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)C=O | C18H19NO
reactant | ethyl isonipecotate | 0.24 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium triacetoxyborohydride | 480 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Benzyl-3-(SR)-(4-carboethoxy-piperidin-1-ylmethyl)-4-(SR)-phenylpyrrolidine | 363 mg | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)CN1CCC(CC1)C(=O)OCC | C26H34N2O2
